US09212243B2
Synthesis of 3-((3-Methacrylamidopropyl)Dimethylammonio)Propane-1-Sulfonate (Herein Called SZ)
Into a round bottom flask is added 26.4 grams of anhydrous acetonitrile (available from Sigma-Aldrich) and 15.5 grams of propane sultone (available from Sigma-Aldrich), and this is stirred for 30 minutes. After the 30 minutes, a solution of 25.6 grams of DMAPMA in 56.5 grams of acetonitrile is added. The mixture is stirred and warmed to 35° C. A white precipitate quickly forms. Once the white precipitate takes up the bulk of the volume, the liquid is decanted. The solid is washed once with acetonitrile and again the liquid is removed by decanting. The solids are then washed in 2× volume diethyl ether. They are then filtered via funnel and washed with copious amounts (via filtration) of diethyl ether. The NMR structure is consistent with the structure of the target molecule SZ.

reactant | propane sultone | 15.5 grams | C1CCOS1(=O)=O | C3H6O3S
reactant | DMAPMA | 25.6 grams | CC(=C)C(=O)NCCCN(C)C | C9H18N2O
solvent | acetonitrile | 56.5 grams | C(C)#N | C2H3N
solvent | acetonitrile | 26.4 grams | C(C)#N | C2H3N
product | 3-((3-Methacrylamidopropyl)Dimethylammonio)Propane-1-Sulfonate | C(C(=C)C)(=O)NCCC[N+](CCCS(=O)(=O)[O-])(C)C | C12H24N2O4S
